Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back and rib pain
 
Major Surgical or Invasive Procedure:
Bone marrow biopsy ___
Cystoscopy, R Retrograde Pyelogram, R Ureteroscopy with Laser 
Lithotripsy, R Ureteral Stent Placement ___

 
History of Present Illness:
___ man with past history of kidney stones who presents 
as referral from PCP after he was found to have lytic lesions on 
his CT scan concerning for multiple myeloma.

Patient states his symptoms began at the beginning ___ when 
he began to have rib pain it was first on the left than on the 
right. At that time he saw his PCP had ___ done which were 
unremarkable. He then began to have bilateral flank pain which 
he thought was kidney stones as he had had one in the past. He 
had a renal ultrasound which was negative but when he continued 
to have severe bilateral flank pain he was referred for a CT 
scan.

He underwent a CT scan ___ which was remarkable for multiple 
bone lesions and pathologic rib fractures it also showed a 10mm 
obstructing kidney stone. He subsequently had a CT chest on ___ 
which showed diffuse spinal lytic lesions concerning for 
epidural involvement. He was recommended to come to the 
emergency room for urgent MRI.

In the emergency room vitals were 97.6 HR87 BP 143/99 RR20 97%% 
RA. Free lambda 361.6 with a K/L ratio of 0.03. He was given 
ibuprofen and Amitriptyline and admitted to medicine. 

The pain is described as a sharp throbbing pain felt more on the 
right which is worse with movement. He denies any numbness or 
tingling, leg weakness, bowel incontinence. He denies any weight 
loss

14 point ROS reviewed with patient and negative except HPI. 
 
Past Medical History:
Nephrolithiasis
 
Social History:
___
Family History:
Mother died at age ___ had diabetes and hypertension
Father had multiple heart problems and died in his ___ of a 
heart attack
 
Physical Exam:
ON ADMISSION:
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or
lesions, no supraclavicular or cervical lymphadenopathy, no JVD,
no carotid bruits, no thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: no cyanosis, clubbing or edema
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  Cn II-XII intact.  ___ strength throughout.  
No
sensory deficits to light touch appreciated.  No pass-pointing 
on
finger to nose.  2+DTR's-patellar and biceps. No asterixis, no
pronator drift, fluent speech.
Psychiatric: pleasant, appropriate affect
GU: no catheter in place

ON DISCHARGE:
VITALS: 97.8 ___
GENERAL: Alert and in no apparent distress, appears comfortable,
conversant
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Moist
mucus membranes.
CV: RRR, no murmurs/rubs, no S3, no S4.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored on room air.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  
GU: No GU catheter present
MSK: Moves all extremities, no edema or swelling. 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented x3, face symmetric, speech fluent, moves
all limbs, no numbness or weakness
PSYCH: Pleasant, appropriate affect, calm, cooperative
 
Pertinent Results:
LABS ON ADMISSION and INTERVAL:
___ 08:00PM BLOOD WBC-7.1 RBC-4.77 Hgb-14.4 Hct-42.9 MCV-90 
MCH-30.2 MCHC-33.6 RDW-13.3 RDWSD-43.6 Plt ___
___ 08:00PM BLOOD Neuts-55.0 ___ Monos-6.6 Eos-2.3 
Baso-0.7 Im ___ AbsNeut-3.91 AbsLymp-2.49 AbsMono-0.47 
AbsEos-0.16 AbsBaso-0.05
___ 09:24PM BLOOD ___ PTT-29.1 ___
___ 09:15PM BLOOD Glucose-83 UreaN-17 Creat-0.9 Na-139 
K-5.1 Cl-99 HCO3-25 AnGap-15
___ 09:15PM BLOOD ALT-21 AST-40 LD(LDH)-470* AlkPhos-108 
TotBili-0.2
___ 09:15PM BLOOD TotProt-9.2* Albumin-3.7 Globuln-5.5* 
Calcium-10.2 Phos-4.3 Mg-2.2
___ 09:15PM BLOOD CRP-3.2
___ 07:28AM BLOOD PSA-0.4
___ 09:15PM BLOOD PEP-ABNORMAL B FreeKap-12.0 
FreeLam-361.6* Fr K/L-0.03* b2micro-2.0 IgG-751 IgA-1390* IgM-52 
IFE-MONOCLONAL
___ 09:04AM URINE Color-Yellow Appear-Clear Sp ___
___ 09:04AM URINE Blood-SM* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD*
___ 09:04AM URINE RBC-14* WBC-8* Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 09:04AM URINE CastHy-3*
___ 09:04AM URINE Hours-RANDOM TotProt-51
==============
LABS ON DISCHARGE:
___ 05:20PM BLOOD WBC-7.3 RBC-4.19* Hgb-12.8* Hct-37.5* 
MCV-90 MCH-30.5 MCHC-34.1 RDW-13.1 RDWSD-42.5 Plt ___
___ 06:26AM BLOOD Glucose-77 UreaN-19 Creat-1.0 Na-138 
K-3.9 Cl-97 HCO3-28 AnGap-13
___ 06:26AM BLOOD Calcium-9.8 Phos-4.4 Mg-2.2
==============
RENAL ULTRASOUND ___:
Bilateral nonobstructing nephrolithiasis.  No hydronephrosis in 
either 
kidney.. 

MRI CERVICAL/THORACIC/LUMBAR SPINE WITH/WITHOUT CONTRAST 
___:
1. Diffuse metastatic osseous lesions spanning the cervical, 
thoracic, lumbar spine, visualized ribs, sacrum and visualized 
iliac bones. 
2. In the thoracic spine, spanning T6 through T11 there are 
expansile lesions which minimally encroaches on the epidural 
space, although correlation with prior CT chest from outside 
hospital is recommended for documentation of cortical 
breakthrough.  This is most prominent at T6. 
3. In the lumbar spine, there may be subtle cortical expansion 
and 
encroachment into the epidural space at the left posterior L4 
level.  In 
addition, there is mild expansion into the right S2-S3 neural 
foramina, 
abutting the exiting nerve root. 
4. No evidence of epidural encroachment in the cervical spine. 
5. There is no evidence of high-grade spinal canal narrowing.  
No evidence of abnormal signal or enhancement of the cord and 
cauda equina. 
6. Additional findings described above. 
PREVALENCE:  Prevalence of lumbar degenerative disk disease in 
subjects 
without low back pain: Overall evidence of disk degeneration 91% 
(decreased T2 signal, height loss, bulge) 
T2 signal loss 83% 
Disk height loss 58% 
Disk protrusion 32% 
Annular fissure 38% 
___, et all.  Spine ___ 26(10):___ 
Lumbar spinal stenosis prevalence- present in approximately 20% 
of 
asymptomatic adults over ___ years old 
___, et al, Spine Journal ___ 9 (7):545-550 

CT ABD/PELVIS WITHOUT CONTRAST ___:
1. Mild hydroureteronephrosis secondary to a 5 mm obstructive 
stone in the mid right ureter. 
2. Innumerable lytic lesions throughout the ribs and axial 
skeleton, with some rib lesions demonstrating expansile, soft 
tissue components, concerning for multiple myeloma.  Absence of 
lymphadenopathy makes lymphoma less likely. 
 
Brief Hospital Course:
Mr. ___ is a ___ man with past history of 
nephrolithiasis with several months of rib, back pain, and 
bilateral flank pain. On CT abdomen/pelvis and CT chest prior to 
admission, he was found to have diffuse lytic bone lesions of 
his spine and pelvis and pathologic rib fractures, overall 
concerning for multiple myeloma. He was referred for admission 
for expedited workup and evaluation for possible epidural 
involvement by spinal lesions. He had bone marrow biopsy. He was 
found to have obstructing ureteral stone and had laser 
lithotripsy and ureteral stent placement with urology given 
concern for immunosuppressive therapy starting.

ACUTE/ACTIVE PROBLEMS:
# Diffuse lytic bone lesions of spine/pelvis
# Pathologic rib fractures
# Suspected multiple myeloma: 
He presented with fatigue, bone pain with CT A/P and CT chest 
prior to admission showing diffuse bony lytic lesions of spine 
and pelvis. Protein gap elevated at 5.5, Ca borderline elevated 
at 10.2, monoclonal IgA lambda spike with abnormal ratio. 
Overall most concerning for multiple myeloma. Most concerning 
feature was possible epidural involvement of the spinal lesions 
on CT scans and MRI on ___, but his exam remained normal and he 
had no neurologic deficits or symptoms. Neurosurgery was 
consulted and they felt no indication for surgery, recommended 
Q4H neuro checks in house, which were normal. At___ oncology 
was consulted and performed bone marrow biopsy on ___, results 
pending on discharge. Consulted radiation oncology who felt they 
had no urgent need for radiation and could see him for an 
evaluation outpatient. Pain was managed with scheduled Tylenol, 
lidocaine patch, Ibuprofen, Tramadol, and Oxycodone, however 
patient did not like how Oxycodone made him feel, so this was 
discontinued. He has oncology followup. SW consulted for coping, 
help patient explore options for medical leave from his job (he 
is supporting a family of 4). He was provided with resources.

# Right obstructing nephrolithiasis: 
Prior to admission, the patient was having persistent flank pain 
and on ___ CT abdomen there was a 10 mm obstructing right 
renal stone. Renal ultrasound on admission showed bilateral 
non-obstructing
nephrolithiasis and no hydronephrosis, but he had not seen any 
stones pass in his urine. Obtained repeat CT A/P that showed 5mm 
stone in right mid-ureter with mild hydronephrosis. Urology was 
consulted and expedited treatment in preparation for starting 
chemotherapy in order to prevent infection. On ___ he had 
cystoscopy, R retrograde pyelogram, R utereroscopy with laser 
lithotripsy with stent placement. Stone was unable to be 
retrieve so was pushed back into the kidney. He felt dizzy after 
the procedure so was monitored overnight and given IVF with 
improvement. He received 24h of cephalexin post-procedurally. He 
needs stent removal ___, should take 1 pill of macrobid 
ahead of time (provided). For stent related pain he was started 
on Flomax for 30 days.

================
TRANSITIONAL ISSUES:
[] Urology followup scheduled for stent removal
[] Oncology followup scheduled
[] Radiation oncology appointment needs to be scheduled
[] F/u bone marrow biopsy results
[] 30 days of Flomax prescribed per urology for stent related 
pain; can try pyridium if symptoms not well controlled with this
[] Provided Tramadol rx on discharge for pain 
[] Started bowel regimen for constipation 
================

The total time spent today on discharge planning, counseling and 
coordination of care today was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO QHS 
2. Ibuprofen 600 mg PO TID:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  lidocaine 4 % topical DAILY  
4.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO ONCE Duration: 1 
Dose 
take before your urology appointment on ___ 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
once Disp #*1 Capsule Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 dose by mouth 
once a day Disp #*30 Packet Refills:*0 
6.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at night Disp #*30 
Capsule Refills:*0 
7.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tab by mouth every six (6) hours Disp #*15 
Tablet Refills:*0 
8.  Ibuprofen 800 mg PO Q8H  
9.  Amitriptyline 10 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diffuse osseous lesions of spine and pelvis
Pathologic rib fracture
Suspected multiple myeloma
Nephrolithiasis
Malignancy related pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You came to the hospital after a CT scan showed multiple bone 
abnormalities of your spine, pelvis, and ribs, which raised 
concern for cancer. 

You had a bone marrow biopsy to help diagnose multiple myeloma. 
We are still waiting on the results. You also saw the 
neurosurgeons to make sure you spinal cord was ok.

You also had a kidney stone that the urology doctors tried to 
remove but they could not get it all. They placed a stent to 
keep your ureter (the tube between the kidney and bladder) open. 


When you leave the hospital, please:
- see below for appointments and medicines
- as we discussed, do not drive while taking tramadol and keep 
it in a safe place away from the children
- please take one tablet of nitrofurantoin before your urology 
appointment
- watch out for worsening blood in your urine, if so, please 
stop taking ibuprofen and call the urologist
- if your urinary symptoms worsen, you can pick up a medicine 
called Pyridium (brand name ___ for a few days

It was a pleasure caring for you and we wish you the best,
Your ___ Team
 
Followup Instructions:
___